US05472962
353 mg of (6-methoxy-2-cyclohexylbenzo[b]thien-3-yl)[4-[2-(1-piperidinylcarbonyl)ethyl]phenyl]methanone was dissolved in 30 ml of THF, 850 mg of lithium aluminum hydride was added, and the mixture was refluxed with heating for 1 hour. A small quantity of water was added to the reaction mixture, followed by stirring, 1 ml of methanol was added, followed by stirring for 5 minutes, and 5 ml of ethyl acetate was added, followed by stirring for 5 minutes. The mixture was filtered using a super cell, the filtrate was concentrated under reduced pressure, and the resultant crude product was purified by TLC (developing solvent, chloroform:methanol=19:1) to obtain 107 mg of (6-methoxy-2-cyclohexylbenzo[b]thien-3-yl)[4-[3-(1-piperidinyl)propyl]phenyl]methanol.

reactant | (6-methoxy-2-cyclohexylbenzo[b]thien-3-yl)[4-[2-(1-piperidinylcarbonyl)ethyl]phenyl]methanone | 353 mg | COC=1C=CC2=C(SC(=C2C(=O)C2=CC=C(C=C2)CCC(=O)N2CCCCC2)C2CCCCC2)C1 | C30H35NO3S
reactant | lithium aluminum hydride | 850 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | O | H2O
reactant | methanol | 1 ml | CO | CH4O
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | ethyl acetate | 5 ml | C(C)(=O)OCC | C4H8O2
product | (6-methoxy-2-cyclohexylbenzo[b]thien-3-yl)[4-[3-(1-piperidinyl)propyl]phenyl]methanol | 107 mg | COC=1C=CC2=C(SC(=C2C(O)C2=CC=C(C=C2)CCCN2CCCCC2)C2CCCCC2)C1 | C30H39NO2S
